US07704993B2
Step 3: Preparation of 8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine.
8-Chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazapin-2-one (150 mg, 0.716 mmol, purified by HPLC or recrystallization) was added to a 50 mL round bottom flask with 2M borane-tetrahydrofuran solution (2 mL, 2.15 mmol). The mixture was stirred 10 hours at room temperature under an argon balloon. LC/MS showed the desired product as the major peak with approximately 5% of starting material still present. The reaction mixture was quenched with 5 mL methanol and the solvents were removed on the rotary evaporator. This procedure was repeated with methanol addition and evaporation. The mixture was evaporated on the rotary evaporator followed by 2 hours in vacuo to give the product as a white solid (117 mg, 70 % yield). 1H NMR (CDCl3): δ 10.2 (br s, 1H), 9.8 (br s, 1H), 7.14 (dd, 1H, J=2, 8 Hz), 7.11 (d, 1H, J=2 Hz), 7.03 (d, 1H, J=8 Hz), 3.6 (m, 2H), 3.5 (m, 2H), 2.8-3.0 (m, 3H), 1.5 (d, 3H, J=7 Hz). LC/MS: 1.41 minute, 196.1 M+H+ and 139 major fragment.

reactant | 8-Chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazapin-2-one | 0.716 mmol, 150 mg | ClC=1C=CC2=C(C(C(NCC2)=O)C)C1 | C11H12ClNO
reactant | borane tetrahydrofuran | 2.15 mmol, 2M, 2 mL | B.O1CCCC1
product | 8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC=1C=CC2=C(C(CNCC2)C)C1 | C11H14ClN
